US05679696
A stirred solution of 2,6-difluoroaniline (1.52 g) and triethylamine (1.19 g) in dichloromethane (50 mL) at room temperature is treated dropwise with a solution of 3-cyclopentyloxy-4-methoxybenzoyl chloride (3.0 g), that is prepared as described hereinafter in Reference Example 3) in dichloromethane (50 mL). The solution is stirred and heated at reflux for 4 hours, then it is cooled, washed with water and dried over magnesium sulfate. The solution is concentrated and the resulting residue is recrystallized from ethyl acetate, to give N-(2,6-difluorophenyl)-3-cyclopentyloxy-4-methoxybenzamide (1.9 g), m.p. 158°-160° C. [NMR(CDCl3):1.55-1.7(m,3H),1.8-2.05(m,5H), 3.93(s,3H),4.85(m, 1H),6.9(d, 1H),6.95-7.03(m,2H),7.2-7.3(m, 1H),7.35(bs,1H),7.45(q, 1H),7.53(d,1H); Elemental analysis: C,65.1; H,5.6;F, 10.4; N,4.2%; Calculated: C,65.7; H,5.5;F, 10.9; N,4.0%].

reactant | 2,6-difluoroaniline | 1.52 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | triethylamine | 1.19 g | C(C)N(CC)CC | C6H15N
reactant | 3-cyclopentyloxy-4-methoxybenzoyl chloride | 3.0 g | C1(CCCC1)OC=1C=C(C(=O)Cl)C=CC1OC | C13H15ClO3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-(2,6-difluorophenyl)-3-cyclopentyloxy-4-methoxybenzamide | 1.9 g | FC1=C(C(=CC=C1)F)NC(C1=CC(=C(C=C1)OC)OC1CCCC1)=O | C19H19F2NO3
